2193-09-09 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-9-8**] 10:27 PM
   pt c/o indigestion, denies pain. not relieved completely with tums.
   EKG unchanged from previous
 ARTERIAL LINE - START [**2193-9-9**] 12:00 AM- Right Radial Art Line
   Vascular Surgery is following and will give surgery with BKA if pt
   agrees to it once medically stable enough to have surgery.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-8**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-9**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmin: 95.7
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 80 (73 - 85) bpm
   BP: 81/50(61) {75/42(46) - 88/52(64)} mmHg
   RR: 22 (14 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                     40 mL
                  PO:
                                                                     30 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GEN: Lying in bed looking in NAD.
   HEENT: NC/AT Dry MM
   LUNGS: Crackles lower lobes bilaterally
   HEART: Irregularly irregular with 2/6 SEM RUSB
   ABD: normoactive BS. Soft. NT/ND
   EXTREM: Hyperpigmented BL LE L>R with L heel dressing C/D/I
   NEURO: Arousable. Oreinted to self.
   Labs / Radiology
   43 K/uL
   7.9 g/dL
   125 mg/dL
   3.2 mg/dL
   26 mEq/L
   5.2 mEq/L
   36 mg/dL
   99 mEq/L
   134 mEq/L
   25.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2193-9-9**]  03:30 AM
   WBC
   4.4
   Hct
   25.0
   Plt
   43
   Cr
   3.2
   Glucose
   125
   Other labs: Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: unclear how accurate this is given his likely diffuse
   vascular disease
   - arterial line for more accurate hemodynamic monitoring although still
   unlikely getting true MAP as extensive vascular disease including in
   upper extremity.
   - will follow lactate level and get an Echo to get a better assessment
   of his BPs and cardiac output
   - follow up blood cultures for assessment of bacteremia/sepsis
   - holding BP meds
   2. Hypothermia: infectious workup as mentioned; not complaining of
   chills/fever currently; cont to monitor
   3. Hypoxia: likely pulmonary edema in the setting of acute-on-chronic
   systolic and diastolic CHF
   - given borderline BP and worsening renal function, will hold off on
   diuresis at this time; fluid management via HD
   - cont low-dose beta blocker
   4. Osteomyelitis:
   - wound swab with MRSA; cont vancomycin and empiric ceftazidime and
   follow up cultures
   - patient deciding on BKA vs second opinion
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   - resume warfarin once GI workup completed
   - low-dose beta blocker for rate control
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - d/w renal re prednisone taper
   - HD today. Renal aware.
   - Will follow up HD recs to see how much fluid he needs off
 if any.
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   ICU Care
   Nutrition: renal/diabetic diet
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   PICC Line - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2193-09-09 11:01:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with h/o ESRD with renal transplant. PVD, CAD, h/o CABG, CHF
   with EF of 20%, AS, diatolic CHF.  Admitted with left heel ulcer
   several weeks ago.  c/b ARF requiring HD.  UGIB - discontinued
   warfarin.  Also with progressive thrombocytopenia, PF4 negative.
   Vascular recommending BKA.   Has had intermittent HOTN and hypoxemia
   with fluid boluses.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2193-9-8**] 05:15 PM
 PICC LINE - START [**2193-9-8**] 05:15 PM
 EKG - At [**2193-9-8**] 10:27 PM
   pt c/o indigestion, denies pain. not relieved completely with tums
 ARTERIAL LINE - START [**2193-9-9**] 12:00 AM
   Overnight A-line placed. Requiring 3L NC oxygen, but otherwise stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-8**] 10:28 PM
   Other medications:
   prednisone 5mg
   lipitor
   CaCO3
   vanco
   trazadone
   flomax
   SSI
   lopressor
   Ceftaz
   protonix
   lantus
   oxycontin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-9**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 83 (73 - 85) bpm
   BP: 49/39(41) {49/39(41) - 91/58(66)} mmHg
   RR: 20 (13 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                     40 mL
                  PO:
                                                                     30 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l 1/3 up.)
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , hyperpigmented LE
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   43 K/uL
   125 mg/dL
   3.2 mg/dL
   26 mEq/L
   5.2 mEq/L
   36 mg/dL
   99 mEq/L
   134 mEq/L
   25.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2193-9-9**]  03:30 AM
   WBC
   4.4
   Hct
   25.0
   Plt
   43
   Cr
   3.2
   Glucose
   125
   Other labs: Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Hypotension and hypothermia:  Unclear etiology.  WBC is still low.
   Unclear if BP is really low, as he seems relatively asymptomatic.
            - check lactate
            - could be adrenal insufficiency.  Consider stress dose
   steroids to see if they have any effect.
            - [**Last Name (LF) 1160**], [**First Name3 (LF) **] ask HD to culture line.
   AF:  HR relatively well controlled - lopressor held due to HOTN.
   Osteomyelitis:  Will need BKA, but unsure if he wants one.
   Thrombocytopenia:  Presumed to be due to Immuran.  HIT negative.
   Follow for now.
   Chronic renal failure:  Will need HD today.
   Respiratory distress:  Still having mild distress, with crackles on
   exam.  Check CXR, likely has some pulmonary edema.
   Acute on chronic systolic and diastolic HF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   PICC Line - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-09-10 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   #. BPs on floor were at times in the 100s even without A -line so BPs
   in 60s-70s from A-line and correlating with cuff likely true readings.
   Pt was thus started on levophed and BPs improved however HR was in the
   140s. Levophed was slowly weaned after a fluid bolus of 500mL NS. HRs
   came down to 110s with MAPs at ~65.
   #. Family meeting: patient agrees to BKA. Vascular surgery is aware and
   will take him when medically stable.
   #. Got HD with 1unit pRBCs, midodrine, and albumin yesterday.  Hct to
   29.7 from 25.
   #. CXR showed interstitial edema and slightly improved retro-cardiac
   opacities on left.
   #. Cardiology following: Suggested swan [**Last Name (un) 1183**] and MvO2 measurements to
   asses cardiac output. MVO2 was 65% overnight. TTE was ordered to
   ascertain systolic function but was never done yesterday.
   #. Urine culture grew yeast - likely a contaminant.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-10**] 12:40 AM
   Vancomycin - [**2193-9-10**] 12:41 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-9**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 106 (80 - 127) bpm
   BP: 94/53(68) {61/36(45) - 102/58(73)} mmHg
   RR: 19 (13 - 45) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,438 mL
                                                                    970 mL
   PO:
                                                                  1,320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    118 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,388 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.46/34/143/25/1
   Physical Examination
   GEN: Lying in bed in NAD
   HEENT: NC/AT no scleral icterus. MMM
   LUNGS: Crackles
   HEART: irreg irreg
   ABD: Distended. NT + BS
   EXTREM: Pigmented lower extremities with bandage over left heel that is
   C/D/I. Severe edema to sacrum.
   NEURO: Awake and alert. Able to answer questions appropriately.
   Labs / Radiology
   55 K/uL
   9.7 g/dL
   247 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.8 mEq/L
   29 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2193-9-9**]  03:30 AM
                             [**2193-9-9**]  12:25 PM
                             [**2193-9-9**]  08:32 PM
                             [**2193-9-10**]  02:39 AM
   WBC
   4.4
   7.5
   Hct
   25.0
   29.7
   30.5
   Plt
   43
   55
   Cr
   3.2
   2.8
   TCO2
   25
   Glucose
   125
   247
   Other labs: PT / PTT / INR:16.4/33.0/1.5, Lactic Acid:1.9 mmol/L,
   Albumin:3.3 g/dL, Ca++:7.8 mg/dL (corrected 8.4), Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   CXR [**2193-9-9**]: Increased interstitial edema with slightly improved left
   retrocardiac opacities.
   CXR [**2193-9-10**]: Poor quality with CM and interstitial edema that seems
   unchanged although difficult to assess [**2-23**] poor quality study.
   BCx, UCx, all NGTD
   Swab of foot grew MRSA
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep MAPs
   >60. Lactate decreased today (1.9 from 3s). Likely getting better
   CO/perfusion with levophed.
   - TTE today to assess cardiac function. Suspect this is main cause of
   his hypotension given CXR results and over-all clinically fluid
   overloaded.
   - follow up blood cultures for assessment of bacteremia/sepsis
   - holding BP meds.
   -Continuing levophed for MAP goal of 65.
   -CVVH may help to take off some fluid and then with lower pre-load may
   have a better CO and a better MAP
   2. Hypothermia: infectious workup as mentioned; not complaining of
   chills/fever currently; cont to monitor. No temps below 98 o/n.
   3. Hypoxia: likely pulmonary edema in the setting of acute-on-chronic
   systolic and diastolic CHF
   4. Osteomyelitis:
   - wound swab with MRSA; cont vancomycin and empiric ceftazidime and
   follow up cultures
   - patient decided would get BKA
   - vascular surgery following
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   -          resume warfarin once GI workup completed
   -          Has had tachycardia (afib with RVR) since starting levophed.
   Slightly responsive to fluid bolus and pRBCs O/N. As pressures better
   hesitate to d/c the levophed but may need a different pressor.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - d/w renal re prednisone taper
   - HD yesterday. Renal aware. [**Month (only) 51**] get CVVH today per HD recs as-fluid
   management via HD but did not take any fluid off yesterday in setting
   of hypotension. [**Month (only) 51**] actually need some diuresis to increase forward
   flow through heart and increase CO.  [**Month (only) 51**] have better CO if not in Afib
   with RVR which has been exacerbated by levophed. Will d/w HD.
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   ICU Care
   Nutrition: renal/diabetic diet/low sodium
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   PICC Line - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   Will need either a double lumen picc or a central line placed today as
   only has single lumen and cannot run antibiotics through same port as
   levophed
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now until medically stable enough to get BKA

2193-09-10 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo with failed renal transplant, hypotension, LE osteomyelitis
   24 Hour Events:
   Started on levophed with increase HR.
   Got HD with albumin, PRBC, and midodrine.  No fluid removed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-10**] 12:40 AM
   Vancomycin - [**2193-9-10**] 12:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-9**] 10:00 AM
   Other medications:
   levophed 0.06/mcg/kg/min
   lipitor
   caco3
   trazadone
   insulin
   lopressor
   hydrocort
   oxycodone
   prochlorperazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-10**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 96 (82 - 127) bpm
   BP: 94/53(68) {61/36(45) - 102/58(73)} mmHg
   RR: 22 (13 - 45) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,438 mL
                                                                    992 mL
   PO:
                                                                  1,320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    118 mL
                                                                    892 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,388 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.46/34/143/25/1
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, sacral
   edema
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   55 K/uL
   247 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.8 mEq/L
   29 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2193-9-9**]  03:30 AM
                             [**2193-9-9**]  12:25 PM
                             [**2193-9-9**]  08:32 PM
                             [**2193-9-10**]  02:39 AM
   WBC
   4.4
   7.5
   Hct
   25.0
   29.7
   30.5
   Plt
   43
   55
   Cr
   3.2
   2.8
   TCO2
   25
   Glucose
   125
   247
   Other labs: PT / PTT / INR:16.4/33.0/1.5, Lactic Acid:1.9 mmol/L,
   Albumin:3.3 g/dL, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Hypotension: Will await final echo read, but preliminary findings
   indicate severe dilated cardiomyopathy.   No evidence of infection as
   far as negative WBC, cultures, and fever.  Entire picture may be due to
   severe systolic heart failure with anasarca. Will discuss with renal
   team about CVVH.
   thrombocytopenia: plts stable
   osteomyelitis: will need BKA once more stable.
   GIB: Hct stable.
   AFib.
   Failured renal tranplant/renal failure:  possible CVVH today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   PICC Line - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-11 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-9-10**] 09:22 AM
   No interval change
 PICC LINE - STOP [**2193-9-10**] 03:00 PM
 PICC LINE - START [**2193-9-10**] 03:54 PM
   [**First Name9 (NamePattern2) 1193**] [**Last Name (un) 405**] picc line placed
   CVVH initiated and fluids gently pulled off with good effect.
   Tolerating well
   -0.8 liters yesterday. 100-200mL/hr off now as BP tolerates
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-10**] 10:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-11**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 80 (75 - 106) bpm
   BP: 85/47(62) {78/43(56) - 104/60(77)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  4,062 mL
                                                                  1,381 mL
   PO:
                                                                    680 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,382 mL
                                                                  1,261 mL
   Blood products:
   Total out:
                                                                  3,532 mL
                                                                  2,201 mL
   Urine:
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/39/116/21/0
   Physical Examination
   GEN: Lying in bed in NAD
   HEENT: NC/AT MMM
   LUNGS: CTAB anteriorly
   HEART: Irreg irreg No M/R/G
   ABD: Soft. NT/ND
   EXTREM: 2+ pitting edema to groin bilaterally
   NEURO: Awake. Alert. Answers questions appropriately.
   Labs / Radiology
   55 K/uL
   9.0 g/dL
   267
   2.4 mg/dL
   23 mEq/L
   4.8 mEq/L
   298mg/dL
   98 mEq/L
   136 mEq/L
   28.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-9-9**]  08:32 PM
                             [**2193-9-10**]  02:39 AM
                             [**2193-9-10**]  11:13 AM
                             [**2193-9-10**]  11:29 AM
                             [**2193-9-10**]  12:00 PM
                             [**2193-9-10**]  06:46 PM
                             [**2193-9-10**]  10:30 PM
                             [**2193-9-10**]  10:39 PM
                             [**2193-9-11**]  04:44 AM
                             [**2193-9-11**]  04:46 AM
   WBC
   7.5
   5.6
   Hct
   29.7
   30.5
   28.5
   Plt
   55
   Cr
   2.8
   2.8
   2.5
   TCO2
   24
   27
   23
   26
   Glucose
   247
   258
   277
   369
   Other labs: PT / PTT / INR:16.4/33.0/1.5, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9/dL, PO4:2.8 mg/dL
   Vanco trough: 26.6
   TTE:
   The left atrium is dilated. The right atrium is moderately dilated. The
   estimated right atrial pressure is 10-20mmHg. The left ventricular
   cavity size is normal. Overall left ventricular systolic function is
   moderately depressed (LVEF= 20%). Right ventricular chamber size is
   normal. with severe global free wall hypokinesis. The ascending aorta
   is mildly dilated. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. There is moderate aortic valve
   stenosis (area 1.0-1.2cm2). No aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. There is mild valvular mitral
   stenosis (area 1.5-2.0cm2). Moderate (2+) mitral regurgitation is seen.
   The tricuspid valve leaflets are mildly thickened. Moderate to severe
   [3+] tricuspid regurgitation is seen. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep MAPs
   >60. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis
   - follow up blood cultures for assessment of bacteremia/sepsis
   - holding BP meds as well as Flomax for now
   -Continuing levophed for MAP goal of 65.
   -CVVH seems to be tolated well and removing fluids
   -Had started stress dose steroids yesterday for ?of adrenal
   insufficiency. No change to hypotension so will decrease to home dose
   of prednisone.
   2. Hypothermia: One temp at 95F infectious workup as mentioned; Heating
   blanket on to keep warm; cont to monitor.  Will d/c antibiotics today
   as only treating MRSA positive swab and no other positive cultures.
   3. Hypoxia: likely pulmonary edema in the setting of acute-on-chronic
   systolic and diastolic CHF
   - Improving with CVVH
   - Resp status improving
 last ABG very good.
   4. Osteomyelitis:
   - wound swab with MRSA; cont vancomycin and empiric ceftazidime and
   follow up cultures
   - patient decided would get BKA
   - vascular surgery following will likely get BKA tomorrow.
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now around 30 although today slight drop.
   - Will check Hct in 6 hours to ensure no further drop. If drop will
   transfuse.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   -          resume warfarin once GI workup completed
   -          Had some tachycardia (afib with RVR) when started levophed
   but now better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - d/w renal re prednisone taper
   - On CVVH now per HD recs as-fluid management
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale. Will need tighter control as
   sugars have been high overnight however patient refuses glargine at
   bedtime one night and last night did not receive until 1am so will
   recheck blood sugars over the day and re-dose glargine as needed.
   ICU Care
   Nutrition: Heart healthy/diabetic/low salt diet
   Glycemic Control:  ISS + 18 glargine at night
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM (Now double lumen)
   22 Gauge - [**2193-9-10**] 08:34 PM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-11 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo man with failed renal transplant, severe CHF, presented with HOTN
   believed to be due to severe CHF
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-9-10**] 09:22 AM - results showed severely
   depresed EF, unchanged from prior study of [**8-21**].
 PICC LINE - STOP [**2193-9-10**] 03:00 PM
 PICC LINE - START [**2193-9-10**] 03:54 PM
   [**First Name9 (NamePattern2) 1193**] [**Last Name (un) 405**] picc line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-10**] 10:09 AM
   Other medications:
   Prednisone 15mg
   lipitor
   FeSO4
   CaCO3
   papain
   urea
   SSI
   Glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-11**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.7
   HR: 84 (74 - 104) bpm
   BP: 89/53(67) {78/43(56) - 104/60(77)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  4,612 mL
                                                                  2,490 mL
   PO:
                                                                  1,230 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,382 mL
                                                                  2,370 mL
   Blood products:
   Total out:
                                                                  2,982 mL
                                                                  3,555 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,630 mL
                                                                 -1,065 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/37/152/23/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   51 K/uL
   267 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.8 mEq/L
   28 mg/dL
   98 mEq/L
   136 mEq/L
   28.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-9-10**]  02:39 AM
                             [**2193-9-10**]  11:13 AM
                             [**2193-9-10**]  11:29 AM
                             [**2193-9-10**]  12:00 PM
                             [**2193-9-10**]  06:46 PM
                             [**2193-9-10**]  10:30 PM
                             [**2193-9-10**]  10:39 PM
                             [**2193-9-11**]  04:44 AM
                             [**2193-9-11**]  04:46 AM
                             [**2193-9-11**]  08:38 AM
   WBC
   7.5
   5.6
   Hct
   30.5
   28.5
   Plt
   55
   51
   Cr
   2.8
   2.8
   2.5
   2.4
   TCO2
   24
   27
   23
   26
   28
   Glucose
   247
   258
   277
   369
   267
   Other labs: PT / PTT / INR:15.5/32.0/1.4, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   HOTN, severe dilated cardiomyopathy, acute on chronic systolic HF:
   Still requiring low dose of levophed.  Continue CVVH to remove fluid.
   Renal transplan/ acute on chornic renal failure:  Continue on CVVH.
   Respiratory distress/hypoxemia.  improved.
   AFib: HR under control.
   LLE osteo:  can stop antibiotics.  as now evidence that he has systemic
   infection.
   Taper to 5mg of prednisone.
   Glucose control:  [**Month (only) 51**] improve now with taper of steroids.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-10**] 08:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-12 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ~1.2L of ultrafiltrate take off with CVVH
   - Continues on Levophed, 0.03-0.05 mcg/kg/min; attempting to wean
   - Had several short runs of NSVT
   - D/c
d vanc and ceftaz on [**9-11**]
   - Decreased pred to normal dose of 5 mg
   - Will prob not have BKA today, d/c
d order for NPO at midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-11**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-12**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 93 (74 - 115) bpm
   BP: 91/50(66) {81/45(59) - 99/59(74)} mmHg
   RR: 21 (10 - 42) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,390 mL
                                                                  1,294 mL
   PO:
                                                                    960 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  5,430 mL
                                                                  1,264 mL
   Blood products:
   Total out:
                                                                  7,873 mL
                                                                  1,238 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,483 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/38/137/26/3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   9.1 g/dL
   237 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.7 mEq/L
   24 mg/dL
   99 mEq/L
   137 mEq/L
   28.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2193-9-10**]  10:30 PM
                             [**2193-9-10**]  10:39 PM
                             [**2193-9-11**]  04:44 AM
                             [**2193-9-11**]  04:46 AM
                             [**2193-9-11**]  08:38 AM
                             [**2193-9-11**]  11:30 AM
                             [**2193-9-11**]  06:23 PM
                             [**2193-9-11**]  06:50 PM
                             [**2193-9-11**]  11:52 PM
                             [**2193-9-12**]  12:08 AM
   WBC
   5.6
   8.2
   Hct
   28.5
   27.6
   28.8
   Plt
   51
   48
   Cr
   2.5
   2.4
   2.2
   2.1
   2.0
   TCO2
   23
   26
   28
   27
   28
   Glucose
   [**Telephone/Fax (3) 1221**]88
   237
   Other labs: PT / PTT / INR:14.8/29.5/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, Ca++:9.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep MAPs
   >60. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis
   - follow up blood cultures for assessment of bacteremia/sepsis
   - holding BP meds as well as Flomax for now
   -Continuing levophed for MAP goal of 65.  Attempting to wean levo and
   per renal, once off pressors, restart ACE and then BB
   -CVVH seems to be tolated well and removing fluids
   -Had started stress dose steroids possibility of adrenal insufficiency
   but there was change in hypotension.  So decreased back to home dose of
   prednisone.
   2. Hypothermia: One temp at 95F infectious workup as mentioned; Heating
   blanket on to keep warm; cont to monitor.  Will d/c antibiotics today
   as only treating MRSA positive swab and no other positive cultures.
   3. Hypoxia: likely pulmonary edema in the setting of acute-on-chronic
   systolic and diastolic CHF
   - Improving with CVVH
   - Resp status improving
 last ABG very good.
   4. Osteomyelitis:
   - wound swab with MRSA; cont vancomycin and empiric ceftazidime and
   follow up cultures
   - patient decided would get BKA
   - vascular surgery following will likely get BKA tomorrow.
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now around 30 although today slight drop.
   - Will check Hct in 6 hours to ensure no further drop. If drop will
   transfuse.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   -          resume warfarin once GI workup completed
   -          Had some tachycardia (afib with RVR) when started levophed
   but now better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - d/w renal re prednisone taper
   - On CVVH now per HD recs as-fluid management
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale. Will need tighter control as
   sugars have been high overnight however patient refuses glargine at
   bedtime one night and last night did not receive until 1am so will
   recheck blood sugars over the day and re-dose glargine as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-10**] 08:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-12 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues on CVVH to remove fluids.
   Continues on low dose levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-11**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-12**] 08:00 AM
   Other medications:
   lipitor,               midodrine
   FeSO4              heparin
   Trazadone        prednisone 5mg
   Protonix            SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-12**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 83 (83 - 115) bpm
   BP: 87/43(60) {80/41(56) - 99/59(74)} mmHg
   RR: 18 (10 - 42) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,391 mL
                                                                  2,519 mL
   PO:
                                                                    960 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  5,431 mL
                                                                  2,429 mL
   Blood products:
   Total out:
                                                                  7,873 mL
                                                                  3,113 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,482 mL
                                                                   -594 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.46/38/108/27/2
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   48 K/uL
   199
   1.8 mg/dL
   27 mEq/L
   4.6 mEq/L
   23 mg/dL
   99 mEq/L
   138 mEq/L
   28.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2193-9-11**]  08:38 AM
                             [**2193-9-11**]  11:30 AM
                             [**2193-9-11**]  06:23 PM
                             [**2193-9-11**]  06:50 PM
                             [**2193-9-11**]  11:52 PM
                             [**2193-9-12**]  12:08 AM
                             [**2193-9-12**]  05:50 AM
                             [**2193-9-12**]  05:59 AM
                             [**2193-9-12**]  08:00 AM
                             [**2193-9-12**]  10:00 AM
   WBC
   8.2
   Hct
   27.6
   28.8
   Plt
   48
   Cr
   2.2
   2.1
   2.0
   1.8
   TCO2
   28
   27
   28
   28
   Glucose
   [**Telephone/Fax (2) 1224**]
   Other labs: PT / PTT / INR:14.8/29.5/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Systolic HF and fluid overload:  Continue CVVH to get fluid off.  Gets
   hotnsive at attempts of brisk removal, so will aim negative 1-2L per
   day.
   levophed to sustain BP
   Hyperglycemia:  will start insulin drip.
   renal failure:  cont CVVH
   LE ulcer:  Aim for BKA next week.
   AFIB
   NSVT:  follow lytes closely.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-13 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Trazadone dose was decreaed to avoid sleepiness in daytime.
   Started on insulin gtt for BGTs that were in 250s consistently even
   with glargine +ISS
   PM lytes were wnl.
   Cards: keep 1.5-2L negative if able with CVVH.
   Renal: Will look at only SBPs with goal SBP of ~80 so that can
   hopefully take off more fluid and decrease pressor requirements.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-12**] 09:58 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-13**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 88 (83 - 97) bpm
   BP: 87/47(62) {78/40(54) - 94/54(68)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,167 mL
                                                                  1,525 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  5,687 mL
                                                                  1,525 mL
   Blood products:
   Total out:
                                                                  6,216 mL
                                                                  1,843 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -49 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/38/150/27/3
   Physical Examination
   GEN: NAD, A&Ox3
   HEENT: Dry MM, no JVD
   CV: RRR, NL S1S2, iii/vi SEM
   PULM: Bilat crackles, improved
   ABD: BS+, NTND
   LIMBS: 3+ limb and sacral edema
   Labs / Radiology
   52 K/uL
   8.9 g/dL
   108 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   22 mg/dL
   100 mEq/L
   137 mEq/L
   28.0 %
   6.6 K/uL
        [image002.jpg]
   P: 1.5
                                     pH
                                    7.46
                                    pCO2
                                     38
                                     pO2
                                     150
                                    HCO3
                                     28
                                   BaseXS
                                      3
                             [**2193-9-12**]  10:00 AM
                             [**2193-9-12**]  11:20 AM
                             [**2193-9-12**]  11:43 AM
                             [**2193-9-12**]  12:00 PM
                             [**2193-9-12**]  01:00 PM
                             [**2193-9-12**]  02:00 PM
                             [**2193-9-12**]  06:11 PM
                             [**2193-9-12**]  11:37 PM
                             [**2193-9-12**]  11:59 PM
                             [**2193-9-13**]  06:01 AM
   WBC
   6.6
   Hct
   28.0
   Plt
   52
   Cr
   1.9
   1.7
   TCO2
   28
   30
   28
   28
   Glucose
   199
   222
   201
   199
   197
   184
   133
   108
   Other labs: PT / PTT / INR:14.7/30.4/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep MAPs
   >60. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis
   - follow up blood cultures for assessment of bacteremia/sepsis
 first
   sets all negative.
   - holding BP meds as well as Flomax for now
   -Continuing levophed for MAP goal of 65.  Attempting to wean levo and
   per renal, once off pressors, restart ACE and then BB
   -CVVH seems to be tolated well and removing fluids: goal now is
   150mL/hour. Has been anywhere from 0-150mL/hour.
   -Had started stress dose steroids possibility of adrenal insufficiency
   but there was change in hypotension.  So decreased back to home dose of
   prednisone.
   - Given volume overload with difficult to control pressures, will
   switch as many meds as possible to Pos
   - Daily weights
   - Increase dose of mitodrine
   2. Hypothermia: temps in nl range o/n. infectious workup as mentioned;
   Heating blanket on to keep warm; cont to monitor.
   3. Hypoxia: likely pulmonary edema in the setting of acute-on-chronic
   systolic and diastolic CHF
   - Improving with CVVH
   - Resp status stable with nl abgs.
   4. Osteomyelitis:
   - wound swab with MRSA;
   - patient decided would get BKA
   - vascular surgery following. Will get bka Monday. [**2193-9-16**]
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   -          hold warfarin pending amputation.
   -          Had some tachycardia (afib with RVR) when started levophed
   but now better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - On CVVH now per HD recs as-fluid management
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale. Will need tighter control as
   sugars have been high overnight however patient refuses glargine at
   bedtime one night and last night did not receive until 1am so will
   recheck blood sugars over the day and re-dose glargine as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU with CVVH

2193-09-13 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   68 yo  with ESRD and HD
   24 Hour Events:
   Continues on CVVH.
   Started in insulin drip for hyperglycemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-10**] 08:00 PM
   Ceftazidime - [**2193-9-10**] 09:00 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2193-9-13**] 10:00 AM
   Other medications:
   lipitor
   colace
   protonix
   prednisone 5mg
   trazadone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-13**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 87 (86 - 97) bpm
   BP: 83/42(57) {76/38(53) - 94/54(69)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,167 mL
                                                                  2,482 mL
   PO:
                                                                    480 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,687 mL
                                                                  2,422 mL
   Blood products:
   Total out:
                                                                  6,216 mL
                                                                  3,199 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -49 mL
                                                                   -717 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/38/150/28/3
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   52 K/uL
   151 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.6 mEq/L
   20 mg/dL
   99 mEq/L
   136 mEq/L
   28.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2193-9-12**]  11:20 AM
                             [**2193-9-12**]  11:43 AM
                             [**2193-9-12**]  12:00 PM
                             [**2193-9-12**]  01:00 PM
                             [**2193-9-12**]  02:00 PM
                             [**2193-9-12**]  06:11 PM
                             [**2193-9-12**]  11:37 PM
                             [**2193-9-12**]  11:59 PM
                             [**2193-9-13**]  06:00 AM
                             [**2193-9-13**]  06:01 AM
   WBC
   6.6
   Hct
   28.0
   Plt
   52
   Cr
   1.9
   1.7
   1.5
   TCO2
   28
   30
   28
   28
   Glucose
   222
   201
   199
   197
   184
   133
   108
   151
   Other labs: PT / PTT / INR:14.7/30.4/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, Ca++:9.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Pulmonary edema/acute on chronic systolic HF:  Continue to remove fluid
   with CVVH.
   HOTN:  increase midodrine to 10mg tid.
   AFib:  hold off on anticoagulation for now.
   CVVH:  Try to change IV meds to PO to cut down on intake.
   DM:  will try to convert drip back to s/q insulin, and more aggressive
   sliding scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-14 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Systolic in the 80s; still on Levo
   Checked lactate for question of poor perfusion, was 1.3
   Changed from insulin gtt yesterday to a more aggressive sliding scale
   Increased Midodrine to 10mg TID
   Clotted filter for CVVH multiple times; have been holding
   anticoagulation
   Plan for BKA on Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-9-13**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-9-13**] 10:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-14**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 87 (80 - 98) bpm
   BP: 83/44(58) {69/35(47) - 94/54(69)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  5,743 mL
                                                                  1,871 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  5,283 mL
                                                                  1,871 mL
   Blood products:
   Total out:
                                                                  7,306 mL
                                                                  2,272 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,563 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.44/38/129/26/2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   8.5 g/dL
   99 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   17 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2193-9-12**]  11:59 PM
                             [**2193-9-13**]  06:00 AM
                             [**2193-9-13**]  06:01 AM
                             [**2193-9-13**]  12:33 PM
                             [**2193-9-13**]  12:53 PM
                             [**2193-9-13**]  05:39 PM
                             [**2193-9-13**]  10:10 PM
                             [**2193-9-13**]  10:17 PM
                             [**2193-9-14**]  02:51 AM
                             [**2193-9-14**]  02:52 AM
   WBC
   7.2
   5.7
   6.4
   Hct
   25.9
   27.6
   27.0
   Plt
   47
   59
   61
   Cr
   1.5
   1.6
   1.4
   1.5
   1.4
   TCO2
   28
   28
   29
   28
   27
   Glucose
   151
   161
   140
   188
   99
   Other labs: PT / PTT / INR:15.1/34.0/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep MAPs
   >60. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis
   - follow up blood cultures  (from [**9-8**] and [**9-9**])
 first sets all
   negative.
   - holding BP meds as well as Flomax for now
   -Continuing levophed for MAP goal of 65.  Attempting to wean levo and
   per renal, once off pressors, restart ACE and then BB
   -CVVH seems to be tolerated well and removing fluids: goal now is
   150mL/hour. Has been anywhere from 0-150mL/hour.
   -Had started stress dose steroids possibility of adrenal insufficiency
   but there was change in hypotension.  So decreased back to home dose of
   prednisone.
   - Given volume overload with difficult to control pressures, will
   switch as many meds as possible to Pos
   - Daily weights
   - Increase dose of midodrine on [**9-13**] to 10mg TID
   2. Hypothermia: temps in nl range o/n. infectious workup as mentioned;
   Heating blanket on to keep warm; cont to monitor.
   3. Hypoxia: resolved; was likely [**2-23**] pulmonary edema in the setting of
   acute-on-chronic systolic and diastolic CHF
   - Improved with CVVH
   - Resp status stable with nl abgs.
   4. Osteomyelitis:
   - wound swab with MRSA;
   - vascular surgery following. Will get bka Monday. [**2193-9-16**]
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   - hold warfarin pending amputation. However, pt has been clotting CVVH
   filter and may need some anticoag
   -  Had some tachycardia (afib with RVR) when started levophed but now
   better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - On CVVH now per HD recs as-fluid management
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale. Will need tighter control as
   sugars have been high overnight however patient has intermittently
   refused glargine at times.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-14 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo man with severe CHF, fluid overload, renal failure, RLE osteo.
   24 Hour Events:
   Continues on CVVH.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-13**] 10:27 PM
   Other medications:
   lipitor   FeSO4
   CaCO
   colace
   prednisone 5mg
   trazadone
   prevacid
   midodrine
   neutraphos
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-14**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 84 (80 - 98) bpm
   BP: 87/49(62) {69/35(47) - 89/52(66)} mmHg
   RR: 32 (18 - 35) insp/min
   SpO2: 63%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  5,743 mL
                                                                  3,138 mL
   PO:
                                                                    460 mL
                                                                    474 mL
   TF:
   IVF:
                                                                  5,283 mL
                                                                  2,664 mL
   Blood products:
   Total out:
                                                                  7,306 mL
                                                                  3,248 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,563 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 63%
   ABG: 7.45/38/129/26/2
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   61 K/uL
   99 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   17 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2193-9-12**]  11:59 PM
                             [**2193-9-13**]  06:00 AM
                             [**2193-9-13**]  06:01 AM
                             [**2193-9-13**]  12:33 PM
                             [**2193-9-13**]  12:53 PM
                             [**2193-9-13**]  05:39 PM
                             [**2193-9-13**]  10:10 PM
                             [**2193-9-13**]  10:17 PM
                             [**2193-9-14**]  02:51 AM
                             [**2193-9-14**]  02:52 AM
   WBC
   7.2
   5.7
   6.4
   Hct
   25.9
   27.6
   27.0
   Plt
   47
   59
   61
   Cr
   1.5
   1.6
   1.4
   1.5
   1.4
   TCO2
   28
   28
   29
   28
   27
   Glucose
   151
   161
   140
   188
   99
   Other labs: PT / PTT / INR:15.1/34.0/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   acute on chronic systolic HF:  Still grossly fluid overloaded, continue
   CVVH goal 1.5L negative
   hypothermia:  due to CVVH
   osteo:  BKA on monday
   Renal failure:  Continue CVHH
   thrombocytopenia
   HOTN:  low dose levophed to support BP with CVVH
   DM control:  On higher dose glargine.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-15 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-14**] 09:40 PM
   drawn from the pt's left arm dl picc line
 BLOOD CULTURED - At [**2193-9-14**] 10:15 PM
   second set of blood cxs drawn from the arterial line
   #. Goal for CVVH is 100mL/hour
   Subjective: Feels ok. Cold. No trouble breathing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 86 (81 - 94) bpm
   BP: 93/49(65) {71/37(50) - 93/51(66)} mmHg
   RR: 20 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,959 mL
                                                                  1,907 mL
   PO:
                                                                  1,084 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  5,875 mL
                                                                  1,667 mL
   Blood products:
   Total out:
                                                                  8,098 mL
                                                                  2,123 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,139 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/41/171/26/2
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (Murmur: Systolic), Irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Edema throughout groin and lower abdomen - 2+
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   50 K/uL
   8.1 g/dL
   108 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.8 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   25.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2193-9-13**]  10:17 PM
                             [**2193-9-14**]  02:51 AM
                             [**2193-9-14**]  02:52 AM
                             [**2193-9-14**]  12:05 PM
                             [**2193-9-14**]  12:31 PM
                             [**2193-9-14**]  06:09 PM
                             [**2193-9-14**]  10:00 PM
                             [**2193-9-14**]  10:08 PM
                             [**2193-9-15**]  03:30 AM
                             [**2193-9-15**]  03:42 AM
   WBC
   6.4
   8.5
   Hct
   27.0
   25.0
   Plt
   61
   50
   Cr
   1.4
   1.3
   1.2
   TCO2
   28
   27
   26
   25
   26
   28
   Glucose
   99
   165
   190
   108
   Other labs: PT / PTT / INR:14.4/33.5/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep SBPs
   >80s. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed but requiring more levophed as try to increase amount of
   fluid to take off. Hopefully with more fluid off he will have better CO
   and will require less levo. Now down 8 kg since [**2193-9-10**]. Dry weight is
   100kg though and still at 111 today.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis.
   - Did have urine culture positive for yeast. Unclear if contaminant or
   true isolate as patient is a transplant patient and may be susceptible
   to more rare infections like yeast. Will repeat urine culture today.
   Now on no antibiotics.
   - follow up blood cultures  (from [**9-8**] and [**9-9**])
 first sets all
   negative.
   - holding BP meds as well as Flomax for now
   -Continuing levophed for SBP goal of 80.  Attempting to wean levo and
   per renal, once off pressors, restart ACE and then BB
   -CVVH seems to be tolerated and have continued removing fluids: goal
   now is 100mL/hour. Has been anywhere from 0-150mL/hour. but is now
   requiring increased doses of levophed.
   - Daily weights
   - Increase dose of midodrine on [**9-13**] to 10mg TID
   2. Hypothermia: most likely due to CVVH.  temps in nl range o/n.
   infectious workup as mentioned; Heating blanket on to keep warm; cont
   to monitor.
   3. Hypoxia: resolved; was likely [**2-23**] pulmonary edema in the setting of
   acute-on-chronic systolic and diastolic CHF
   - Improved with CVVH
   - Resp status stable with nl abgs.
   4. Osteomyelitis:
   - wound swab with MRSA;
   - vascular surgery following. Will get bka Monday. [**2193-9-16**]
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   - hold warfarin pending amputation. However, pt has been clotting CVVH
   filter and may need some anticoag
   -  Had some tachycardia (afib with RVR) when started levophed but now
   better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - On CVVH now per HD recs as-fluid management
   - Will not  anticoag for CVVH filter clogging at this time.
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale and glargine 40 un.  Can
   consider decreasing if too aggressive.
   ICU Care
   Nutrition: Diabetic/Low sodium/heart healthy diet NPO after MN tonight
   for BKA tomorrow.
   Glycemic Control:  ISS with 40units Glargine QHS (Half dose tonight for
   procedure). Has had low morning BGTs so will back off glargine standing
   dose to 36units qhs once procedure done
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU with CVVH

2193-09-15 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on CVVH
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-14**] 09:40 PM
   drawn from the pt's left arm dl picc line
 BLOOD CULTURED - At [**2193-9-14**] 10:15 PM
   second set of blood cxs drawn from the arterial line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   SSI, glargine
   citrate
   KCL
   lipitor
   FeSO4
   colace
   prednisone
   s/q heparin
   trazadone
   PPI midodrine
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-15**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 80 (80 - 94) bpm
   BP: 79/39(53) {73/37(50) - 93/51(66)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 119.8 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  6,959 mL
                                                                  3,536 mL
   PO:
                                                                  1,084 mL
                                                                    880 mL
   TF:
   IVF:
                                                                  5,875 mL
                                                                  2,656 mL
   Blood products:
   Total out:
                                                                  8,098 mL
                                                                  3,643 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,139 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/38/118/25/3
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   50 K/uL
   53 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.8 mEq/L
   15 mg/dL
   102 mEq/L
   135 mEq/L
   25.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2193-9-14**]  02:52 AM
                             [**2193-9-14**]  12:05 PM
                             [**2193-9-14**]  12:31 PM
                             [**2193-9-14**]  06:09 PM
                             [**2193-9-14**]  10:00 PM
                             [**2193-9-14**]  10:08 PM
                             [**2193-9-15**]  03:30 AM
                             [**2193-9-15**]  03:42 AM
                             [**2193-9-15**]  08:20 AM
                             [**2193-9-15**]  08:27 AM
   WBC
   8.5
   Hct
   25.0
   Plt
   50
   Cr
   1.3
   1.2
   TCO2
   27
   26
   25
   26
   28
   27
   Glucose
   165
   190
   108
   53
   Other labs: PT / PTT / INR:14.4/33.5/1.3, ALT / AST:[**6-4**], Alk Phos / T
   Bili:124/1.2, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Acute on chronic systolic HF:  Have removed 8kg, but still maybe 11kg
   over dry weight.
   HOTN:  continue midodrine and levophed for support.
   chronic renal failure:  CVVH, goal 50cc/hr
   osteomyelitis:  WIll get BKA tomorrow.
   DM II:  Blood sugar better controlled.
   AFib: Will need anticoag eventually
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-16 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NPO for procedure
   1/2 dose glargine (18units) overnight
   ABG at 1pm: 7.42/40/134
   Lytes 315/4.8 102/25 ca 8.3; mg 2.1; ph 1.8
   Hypotensive with SBPs ~80 or lower overnight and tachy cardic to 100s.
   Hct to 24. No blood/fluid given as trying to keep patient net negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-16**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 102 (80 - 120) bpm
   BP: 80/46(58) {75/39(53) - 93/49(65)} mmHg
   RR: 28 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 111.3 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                  7,499 mL
                                                                    969 mL
   PO:
                                                                  2,140 mL
             TF:
   IVF:
                                                                  5,359 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  7,252 mL
                                                                    725 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/35/114/23/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   7.5 g/dL
   132 mg/dL
   1.1 mg/dL
   23 mEq/L
   5.2 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   23.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2193-9-15**]  03:42 AM
                             [**2193-9-15**]  08:20 AM
                             [**2193-9-15**]  08:27 AM
                             [**2193-9-15**]  01:05 PM
                             [**2193-9-15**]  01:11 PM
                             [**2193-9-15**]  03:30 PM
                             [**2193-9-15**]  10:00 PM
                             [**2193-9-15**]  10:12 PM
                             [**2193-9-16**]  03:31 AM
                             [**2193-9-16**]  03:33 AM
   WBC
   7.7
   Hct
   24.1
   23.1
   Plt
   42
   Cr
   1.0
   1.1
   TCO2
   28
   27
   27
   25
   25
   Glucose
   53
   128
   186
   132
   Other labs: PT / PTT / INR:14.1/33.1/1.2, ALT / AST:[**9-6**], Alk Phos / T
   Bili:138/0.9, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1153**] is a 68 year old man with CKD V now with failure of a renal
   transplant, osteomyelitis of his left heel, chronic systolic and
   diastolic CHF, and a recent GI bleed who is now transferred to the MICU
   for increased monitoring in the setting of hypotension and hypothermia.
   1. Hypotension: on floor were getting SBPs in 100s so likely SBPs in
   60s here not just [**2-23**] poor [**Location (un) **]. Has required levophed to keep SBPs
   >80s. Lactate decreased today (1.5). Likely getting better CO/perfusion
   with levophed but requiring more levophed as try to increase amount of
   fluid to take off. Hopefully with more fluid off he will have better CO
   and will require less levo. Now down 8 kg since [**2193-9-10**]. Dry weight is
   100kg though and still at 111 today.
   - TTE: No major changes in ECHO other than his longstanding severe CHF,
   which may explain his hypotension without invoking sepsis.
   - Did have urine culture positive for yeast. Unclear if contaminant or
   true isolate as patient is a transplant patient and may be susceptible
   to more rare infections like yeast. Will repeat urine culture today.
   Now on no antibiotics.
   - follow up blood cultures  (from [**9-8**] and [**9-9**])
 first sets all
   negative.
   - holding BP meds as well as Flomax for now
   -Continuing levophed for SBP goal of 80.  Attempting to wean levo and
   per renal, once off pressors, restart ACE and then BB
   -CVVH seems to be tolerated and have continued removing fluids: goal
   now is 100mL/hour. Has been anywhere from 0-150mL/hour. but is now
   requiring increased doses of levophed.
   - Daily weights
   - Increase dose of midodrine on [**9-13**] to 10mg TID
   2. Hypothermia: most likely due to CVVH.  temps in nl range o/n.
   infectious workup as mentioned; Heating blanket on to keep warm; cont
   to monitor.
   3. Hypoxia: resolved; was likely [**2-23**] pulmonary edema in the setting of
   acute-on-chronic systolic and diastolic CHF
   - Improved with CVVH
   - Resp status stable with nl abgs.
   4. Osteomyelitis:
   - wound swab with MRSA;
   - vascular surgery following. Will get bka Monday. [**2193-9-16**]
   5. Acute blood loss anemia due to GI bleed: hematocrit has been stable
   for several days now.
   - cont to hold warfarin for now and pursue GI workup once more stable
   - follow Hcts
   6. Atrial fibrillation: CHADS2 score of 5 indicating high risk for
   future cardioembolic phenomenon
   - hold warfarin pending amputation. However, pt has been clotting CVVH
   filter and may need some anticoag
   -  Had some tachycardia (afib with RVR) when started levophed but now
   better.
   7. CKD V: renal transplant now considered failed and he is back on
   hemodialysis
   - On CVVH now per HD recs as-fluid management
   - Will not  anticoag for CVVH filter clogging at this time.
   8. Thrombocytopenia: etiology unclear, though could be due to
   azathioprine (recently stopped); PF4 antibody negative
   - trend for now; consider hematology consultation if it doesn
t improve
   with removal of azathioprine
   9. DM: Patient on insulin sliding scale and glargine 40 un.  Can
   consider decreasing if too aggressive.
   ICU Care
   Nutrition: Diabetic/Low sodium/heart healthy diet NPO after MN tonight
   for BKA tomorrow.
   Glycemic Control:  ISS with 40units Glargine QHS (Half dose tonight for
   procedure). Has had low morning BGTs so will back off glargine standing
   dose to 36units qhs once procedure done
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   22 Gauge - [**2193-9-12**] 08:00 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU with CVVH to OR today for BKA

2193-09-16 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct down to 24 so got 2U.
   24 Hour Events:
   Went to OR this am for BKA.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   glargine and s/q insulin
   Mg
   midodrine
   neutraphos
   trazadone
   prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-16**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 103 (83 - 120) bpm
   BP: 90/41(62) {75/39(52) - 90/49(63)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 111.3 kg (admission): 111.6 kg
   Height: 72 Inch
           Total In:
                                                                  7,499 mL
                                                                  1,592 mL
   PO:
                                                                  2,140 mL
           TF:
   IVF:
                                                                  5,359 mL
                                                                  1,036 mL
   Blood products:
   556 mL
   Total out:
                                                                  7,252 mL
                                                                    725 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.45/35/114/23/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   42 K/uL
   132 mg/dL
   1.1 mg/dL
   23 mEq/L
   5.2 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   23.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2193-9-15**]  03:42 AM
                             [**2193-9-15**]  08:20 AM
                             [**2193-9-15**]  08:27 AM
                             [**2193-9-15**]  01:05 PM
                             [**2193-9-15**]  01:11 PM
                             [**2193-9-15**]  03:30 PM
                             [**2193-9-15**]  10:00 PM
                             [**2193-9-15**]  10:12 PM
                             [**2193-9-16**]  03:31 AM
                             [**2193-9-16**]  03:33 AM
   WBC
   7.7
   Hct
   24.1
   23.1
   Plt
   42
   Cr
   1.0
   1.1
   TCO2
   28
   27
   27
   25
   25
   Glucose
   53
   128
   186
   132
   Other labs: PT / PTT / INR:14.1/33.1/1.2, ALT / AST:[**9-6**], Alk Phos / T
   Bili:138/0.9, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   HOTN:  Continues on Levophed 0.06mg/kg/min.
   acute on chronic systolic heart failure: Continue on CVVH
   osteomyelitis: BKA today
   renal failure:
   DM II: SSI and glargine
   Afib:
   thombocytopenia
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2193-9-8**] 05:15 PM
   Arterial Line - [**2193-9-9**] 12:00 AM
   PICC Line - [**2193-9-10**] 03:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-09-21 07:30:00 Physician Resident Progress Note
24 Hour Events:
   Transferred to MICU from CVICU for resp failure after being found
   unresponsive thought to be secondary to aspiration.  S/p bronch.
 BLOOD CULTURED - At [**2193-9-20**] 11:37 PM
 URINE CULTURE - At [**2193-9-20**] 11:37 PM
   - Upon arrival, pt thought to have only 3 usable ports, with two being
   used for CVVH.  The one remaining port was used for levo, fentanyl,
   versed, vasopressin, and daptomycin running together (all compatible).
   - Attempted to clear other lines with tPA; will try again
   - On arrival to the MICU, pt was noted to be having runs of ectopy.
   Changed from propofol (not compatible thru line) to fentanyl/versed and
   ectopy seemed to improve.
   - Discovered that pt was receving 4 times dose of levophed.  Had
   thought to be infusing 0.15 mcg but in reality was 0.4mcg (due to elev
   concentration of levo in bag).  Attempted to decrease, and pts
   pressures did not tolerate.  MAPs decreased to 55-60s.  Added
   vasopressin to regimen with improvement in MAPs.
   - PTT down to 42
   - RR continues to be too high, pCO2 remains low
   - On CVVH
   - Extensive skin breakdown, anasarca.  Placed wound consult (out of
   office for weekend)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 1 mEq./hour
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 96 (91 - 124) bpm
   BP: 88/45(61) {87/45(61) - 148/71(101)} mmHg
   RR: 14 (6 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 111.3 kg (admission): 111.6 kg
   Height: 72 Inch
             Total In:
                                                                     28 mL
                                                                  1,688 mL
   PO:
             TF:
   IVF:
                                                                     28 mL
                                                                  1,568 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                    813 mL
   Urine:
                                                                     15 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                    875 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/39/174
   Ve: 9.8 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Labs / Radiology
   42 K/uL
   8.7 g/dL
   111 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.2 mEq/L
   14 mg/dL
   96 mEq/L
   135 mEq/L
   25.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2193-9-20**]  11:22 AM
                             [**2193-9-20**]  04:17 PM
                             [**2193-9-20**]  04:32 PM
                             [**2193-9-20**]  05:32 PM
                             [**2193-9-20**]  09:37 PM
                             [**2193-9-20**]  09:56 PM
                             [**2193-9-21**]  01:43 AM
                             [**2193-9-21**]  03:04 AM
                             [**2193-9-21**]  06:02 AM
                             [**2193-9-21**]  06:16 AM
   WBC
   7.1
   9.0
   Hct
   25.2
   25.8
   Plt
   37
   42
   Cr
   1.2
   1.2
   1.2
   TropT
   0.06
   TCO2
   31
   29
   33
   31
   30
   31
   Glucose
   93
   193
   177
   150
   111
   Other labs: PT / PTT / INR:16.9/42.0/1.5, CK / CKMB /
   Troponin-T:39/7/0.06, ALT / AST:[**9-6**], Alk Phos / T Bili:138/0.9, Lactic
   Acid:1.5 mmol/L, Albumin:2.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   .Mr. [**Known lastname 1153**] is a 68 year old man with CKD V and PVD now s/p left BKA
   who had an acute aspiration event yesterday requiring intubation and
   bronchoscopy
   ## Shock:  Differential includes septic shock, adrenal insufficiency,
   and cardiogenic shock.  Most likely etiology is aspiration with
   resulting infection.
   -ID consult- to cover empirically for MRSA, documented VRE in a
   thrombocytopenic pt, need to cover fungal sources
   - For now, vanc (MRSA), dapto (VRE), zosyn and cipro (hospital acq
   PNA), flagyl (c. diff)
   -D/c lines.  Will need to go to IR for replacement
   TTE  to eval for endocarditits as well as cardiogenic shock
   -Check CVP to monitor volume status
   -Check [**Last Name (un) 402**] stim and treat empirically at present, given chronic
   steroid use.
   -Pan-culture including C diff.
   -Continue levophed and vasopressin until pressures improve
   ## Respiratory failure: due to acute aspiration event, though it's
   unclear what triggered him to aspirate since his mental status had
   reportedly been normal and he had been on room air.  Now complicated by
   shock
   - continue intubation for now given tenuous status
   .
   ## Osteomyelitis:
   - On multiple abx.  Has new ulcer on lateral right foot.  Continue to
   monitor
   .
   ## CKD V
   - cont low-dose prednisone per renal team given his long-term
   immunosuppression regimen; gradual taper
   - cont CVVH per renal
   .
   ## Acute-on-chronic systolic CHF: volume being managed by CVVH; on
   amiodarone for beta blockade
   .
   ## Chronic atrial fibrillation:
   - on amiodarone for rate control
   - holding heparin due to coagulopathy
   .
   ## Coagulopathy: likely due to heparin infusion
   - recheck PTT and cont holding heparin; likely doesn't need heparin
   bridging and can simply resume warfarin once stable
   .
   ## Thrombocytopenia: presumed due to azathioprine therapy, though this
   has persisted in spite of withdrawl of azathioprine
   - P4 negative
   .
   ## DM2: on glargine with HISS; will halve glargine dose given NPO
   status now that he is intubated
   .
   ## Acute blood loss anemia due to GI bleed
   - no active bleeding
   - cont ppi and readdress once more stable
   .
   ## FEN: tube feeds, replete lytes as needed
   ## Prophylaxis: ppi
   ## Access: dialysis catheter x2, arterial line
   ## Full Code
   ## Communication: with wife [**Name (NI) 1154**] [**Name (NI) 1153**]
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2193-9-20**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-22 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2193-9-21**] 06:45 PM
 DIALYSIS CATHETER - STOP [**2193-9-21**] 09:30 PM
   Required [**5-28**] pressors overnight including Vasopressin, Neo, Epi,
   Dobutamine, Dopamine, Levophed. Now on  (d/c'd  dobutamine and epi).
   TTE: no change
   [**Last Name (un) **] stim test without appropriate increase in [**Last Name (un) 402**]. Started on
   Hydrocortisone stress dose steroids.
   LIJ CVL and RIJ HD catheter placed.
   L SC HD catheter pulled and tip cultured.
   Received 1 bag platelets and 2 units pRBCs.
   ID recs: Tobra, Meropenem, Flagyl, Fluconozole, Linezolid
   Has tobra peak and trough pending this am.
   Sugars were very high once steroids started (>250s) so was started on
   insulin gtt.
   Vascular surgery came by and are leaving notes.
   Tube feeds started (Nutren renal) but had high residuals so were held.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-9-21**] 12:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-21**] 01:20 PM
   Vancomycin - [**2193-9-21**] 02:33 PM
   Fluconazole - [**2193-9-21**] 04:04 PM
   Tobramycin - [**2193-9-21**] 05:33 PM
   Meropenem - [**2193-9-22**] 04:00 AM
   Metronidazole - [**2193-9-22**] 04:00 AM
   Linezolid - [**2193-9-22**] 04:53 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Dobutamine - 4 mcg/Kg/min
   Norepinephrine - 0.42 mcg/Kg/min
   Dopamine - 20 mcg/Kg/min
   Insulin - Regular - 16 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-22**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-22**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 105 (94 - 119) bpm
   BP: 90/45(60) {64/38(47) - 103/53(70)} mmHg
   RR: 16 (0 - 17) insp/min
   SpO2: 82%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 111.3 kg (admission): 111.6 kg
   Height: 71 Inch
    CVP: 16 (15 - 274)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                 11,715 mL
                                                                  2,130 mL
   PO:
   TF:
                                                                     12 mL
   IVF:
                                                                 10,415 mL
                                                                  1,970 mL
   Blood products:
                                                                  1,048 mL
   Total out:
                                                                  3,138 mL
                                                                    140 mL
   Urine:
                                                                     96 mL
                                                                     40 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,577 mL
                                                                  1,990 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 82%
   ABG: 7.44/38/151/25/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 377
   Physical Examination
   GEN: Intubated and sedated. anasarca
   HEENT: ETT in place. Pupils sluggishly reactive to light.
   LUNGS: Crackles
   HEART: Tachycardic and irregularly irregular
   ABD: Obese and edematous.
   EXTREM: Left BKA. Dressing C/D/I. Right heel ulcer with purulent
   drainage. Diffuse pitting edema bilateral upper and lower extremities.
   NEURO: Sedated
   Labs / Radiology
   57 K/uL
   9.2 g/dL
   177
   1.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   18 mg/dL
   93 mEq/L
   128 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2193-9-21**]  11:00 PM
                             [**2193-9-22**]  12:00 AM
                             [**2193-9-22**]  01:00 AM
                             [**2193-9-22**]  01:48 AM
                             [**2193-9-22**]  02:06 AM
                             [**2193-9-22**]  03:23 AM
                             [**2193-9-22**]  04:00 AM
                             [**2193-9-22**]  05:14 AM
                             [**2193-9-22**]  05:26 AM
                             [**2193-9-22**]  06:34 AM
   WBC
   7.6
   Hct
   29
   27.4
   Plt
   57
   Cr
   1.5
   1.5
   TropT
   0.25
   TCO2
   27
   27
   Glucose
   [**Telephone/Fax (2) 1386**]
   163
   185
   177
   Other labs: PT / PTT / INR:17.3/36.5/1.6, CK / CKMB /
   Troponin-T:35/7/0.25, ALT / AST:[**6-6**], Alk Phos / T Bili:121/1.0, Lactic
   Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:254 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Cultures pending
   CXR: RLL opacity. Cardiomegaly. Cephalization of BVs. L lung with
   haziness. ?hemothorax.
   Assessment and Plan
   .Mr. [**Known lastname 1153**] is a 68 year old man with CKD V and PVD now s/p left BKA
   who had an acute aspiration event yesterday requiring intubation and
   bronchoscopy and then developed.
   ## Shock:  Differential includes septic shock, adrenal insufficiency,
   and cardiogenic shock.  Most likely combination of all three.
   Attempting to wean off pressors today starting with dopamine.
   *Septic Shock:
   -ID consult- to cover empirically for MRSA, documented VRE in a
   thrombocytopenic pt, need to cover fungal sources
   -ID Recs: Linezolid, flagyl, tobramycin, fluconazole, meropenem
   -D/c
d lines and cultured tips.
   -Pan-cultured including C diff.
   *Cardiogenic Shock:
   -TTE  to eval for endocarditits as well as cardiogenic shock. No
   vegetations and EF 15% with no tamponade. No change from prior.
   -CVP has been 18 overnight.
   - CVVH had to be turned off as HD line was replaced. [**Month (only) 51**] need to
   restart it to get some fluid off.
   -Gradually weaning off pressors. Now on 4.
   *Adrenal Insufficiency:
   -[**Last Name (un) **] stim was not normal. Getting low dose steroids. Seems to be
   helping as pressors coming off.
   ## Respiratory failure: due to acute aspiration event, though it's
   unclear what triggered him to aspirate since his mental status had
   reportedly been normal and he had been on room air.  Now complicated by
   shock
   - continue intubation for now given tenuous status
   .
   ## Osteomyelitis:
   - On multiple abx.  Has new ulcer on lateral right foot.  Continue to
   monitor. Wound care consult ordered.
   .
   ## CKD V: New HD line placed yesterday and left subclavian HD line
   pulled and cultured as was not working. CVVH stopped yesterday in
   setting of shock.
   - cont CVVH today per renal recs with goal to keep even and take no
   fluid off but no more overload.
   .
   ##. Hyponatremia: likely [**2-23**] fluid overload.
   -Will restart CVVH today to try to make even and keep from more fluid
   overload.
   .
   ##. ? of hemothorax: Pulled Subclavian HD catheter yesterday and hct
   stable since but may be bleeding from this site. Too unstable to go to
   CT scan.
   -Will check Hcts Q6h.
   -Will get U/S if hct drops and worried bleeding into pleural space.
   .
   ## Acute-on-chronic systolic CHF: volume being managed by CVVH; on
   amiodarone for beta blockade
   -TTE with no change from prior.  On pressors to inc CO.
   -Fluid balance maintained with CVVH
   .
   ## Chronic atrial fibrillation:
   - on amiodarone for rate control
   - holding heparin due to coagulopathy
   .
   ## Coagulopathy: likely due to heparin infusion
   - recheck PTT and cont holding heparin; likely doesn't need heparin
   bridging and can simply resume warfarin once stable
   .
   ## Thrombocytopenia: presumed due to azathioprine therapy, though this
   has persisted in spite of withdrawl of azathioprine
   - P4 negative
   .
   ## DM2: on insulin sliding scale as sugars poorly controlled on
   steroids
   .
   ## Acute blood loss anemia due to GI bleed
   - no active bleeding
   - cont ppi and readdress once more stable
   .
   ## FEN: tube feeds, replete lytes as needed
   ## Prophylaxis: ppi (will change to IV today)
 patient has h/o GIB
   ## Access: RIJ dialysis catheter x1, LIJ CVL
   ## Full Code
   ## Communication: with wife [**Name (NI) 1154**] [**Name (NI) 1153**]
   ## Dispo: ICU

2193-09-22 09:16:00 Physician Attending Progress Note
Chief Complaint: MOSF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   See notes from yesterday; very eventful day.  Overnight, dobuta d/c'd.
   Neo d/c'd this morning.
   [**Last Name (un) **]: 14 --> 19 --> 20 while in shock.
   ScVO2 60 --> 72%
   Insulin drip started.
   High residuals --> tube feeds stopped.
   Right temp HD catheter d/c'd.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-9-21**] 12:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-21**] 01:20 PM
   Vancomycin - [**2193-9-21**] 02:33 PM
   Fluconazole - [**2193-9-21**] 04:04 PM
   Tobramycin - [**2193-9-21**] 05:33 PM
   Meropenem - [**2193-9-22**] 04:00 AM
   Metronidazole - [**2193-9-22**] 04:00 AM
   Linezolid - [**2193-9-22**] 04:53 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.42 mcg/Kg/min
   Dopa @ 12
   Insulin - Regular - 16 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-22**] 12:55 AM
   Other medications:
   PO meds held; hydrocort 50 q6h, flagyl, linez, [**Last Name (un) 614**], tobra, insulin,
   midodrine, epo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-22**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 105 (94 - 119) bpm
   BP: 94/46(63) {64/38(47) - 103/53(70)} mmHg
   RR: 16 (0 - 17) insp/min
   SpO2: 82%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 111.3 kg (admission): 111.6 kg
   Height: 71 Inch
   CVP: 16 (15 - 274)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                 11,715 mL
                                                                  2,436 mL
   PO:
   TF:
                                                                     12 mL
   IVF:
                                                                 10,415 mL
                                                                  2,276 mL
   Blood products:
                                                                  1,048 mL
   Total out:
                                                                  3,138 mL
                                                                    140 mL
   Urine:
                                                                     96 mL
                                                                     40 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,577 mL
                                                                  2,296 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 82%
   ABG: 7.44/38/151/25/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : ), anterior
   exam only
   Extremities: Right: 1+, ulcer left foot persists
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   57 K/uL
   177
   1.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   18 mg/dL
   93 mEq/L
   128 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2193-9-21**]  11:00 PM
                             [**2193-9-22**]  12:00 AM
                             [**2193-9-22**]  01:00 AM
                             [**2193-9-22**]  01:48 AM
                             [**2193-9-22**]  02:06 AM
                             [**2193-9-22**]  03:23 AM
                             [**2193-9-22**]  04:00 AM
                             [**2193-9-22**]  05:14 AM
                             [**2193-9-22**]  05:26 AM
                             [**2193-9-22**]  06:34 AM
   WBC
   7.6
   Hct
   29
   27.4
   Plt
   57
   Cr
   1.5
   1.5
   TropT
   0.25
   TCO2
   27
   27
   Glucose
   [**Telephone/Fax (2) 1386**]
   163
   185
   177
   Other labs: PT / PTT / INR:17.3/36.5/1.6, CK / CKMB /
   Troponin-T:35/7/0.25, ALT / AST:[**6-6**], Alk Phos / T Bili:121/1.0, Lactic
   Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:254 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: increased
   TTE: unchanged from prior
   Microbiology: No new (+) micro
   Assessment and Plan
   68 y/o man with multiple organ system failure.  He is obviously still
   tremendously ill, though he has improved substantially from yesterday
   and is currently down to three vasoactive medications (levophed,
   dobutamine, and vasopressin).
   Shock
   Substantial improvement since yesterday argues in favor of some
   meaningful component of adrenal insufficiency.  Most likely issue is
   probably aspiration
 infection that, in the setting of adrenal
   insufficiency, resulted in profound shock.  Ischemic bowel and other
   intra-abdominal issues are still possible.  At present, risks of
   transport to CT outweigh benefits.
   We will try to wean dopamine first.
   We
ll restart CVVH to try to keep him approximately even for the rest
   of the day.
   Respiratory failure
   Likely due to a combination of shock and aspiration.
   Leave intubated until shock more stable.
   Thrombocytopenia
   Follow for now.  PF4 negative.
   Atrial fibrillation
   [**Month (only) 51**] need to resume heparin once platelets up.
   Diabetes
   On insulin as needed
   ARF on CVVHD
   Continue CVVHD for now
   Left pleural effusion
   Likely CHF, though hemothorax is possible since HD line was removed on
   that side.  For now, we will follow Hcts.  If they fall, will
   ultrasound pleural space and consider diagnostic [**Female First Name (un) 217**].
   ICU Care
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2193-9-19**] 07:00 AM
   Dialysis Catheter - [**2193-9-20**] 10:00 PM
   Multi Lumen - [**2193-9-21**] 06:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: add IV PPI given prior GI bleed
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Critical Care Staff Addendum
   12:30pm
   Mr. [**Known lastname 1153**] developed full cardiac arrest with multiple rhythms,
   including PEA, bradycardia, and VFib.  Received ACLS with epinephrine,
   amiodarone, magnesium, CPR, and defibrillation.  Now with BP ~90/40 on
   leveophed, epinephrine, dobutamine, Neo,  levophed, and dopamine.  His
   family was not at bedside; I called his wife during the arrest and she
   in en route.
   35 minutes